US07795453B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-{[(tert-butylamino)carbonyl]amino}-1-benzothiophene-2-carboxamide hydrochloride
A solution of 50 mg (0.13 mmol) of 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride in 2 ml of THF and 0.2 ml of DMF is mixed with 37.2 μl (0.27 mmol) of triethylamine and 26.5 mg (0.27 mmol) of tert-butyl isocyanate. After 18 h at room temperature, the product is purified by preparative HPLC. The concentrated product fraction is dissolved in a mixture of acetonitrile and 1 N hydrochloric acid (5:1), again concentrated and dried under high vacuum. 19 mg (32.6% of theory) of the title compound are obtained.

reactant | 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride | 0.13 mmol, 50 mg | Cl.Cl.NC1=CC2=C(C=C(S2)C(=O)N[C@H]2CN3CCC2CC3)C=C1
reactant | triethylamine | 0.27 mmol, 37.2 μl | C(C)N(CC)CC | C6H15N
reactant | tert-butyl isocyanate | 0.27 mmol, 26.5 mg | C(C)(C)(C)N=C=O | C5H9NO
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | DMF | 0.2 ml | CN(C)C=O | C3H7NO
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-{[(tert-butylamino)carbonyl]amino}-1-benzothiophene-2-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=CC(=C1)NC(=O)NC(C)(C)C | InChI=1S/C21H28N4O2S.ClH/c1-21(2,3)24-20(27)22-15-5-4-14-10-18(28-17(14)11-15)19(26)23-16-12-25-8-6-13(16)7-9-25;/h4-5,10-11,13,16H,6-9,12H2,1-3H3,(H,23,26)(H2,22,24,27);1H/t16-;/m0./s1
